US09079866B2
N-[3′-Fluoro-4′-(5H-pyrrolo[2,3-b]pyrazin-2-yl)biphenyl-2-yl]-2-methylpropane-1-sulfonamide
The title compound was prepared using methods analogous to those described in Step C of Example 490 using N-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)isobutylsulfonamide and 2-(4-bromo-2-fluorophenyl)-5H-pyrrolo[2,3-b]pyrazine. MS (ESI): mass calcd. C22H21FN4O2S, 424.14; m/z found, 425.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 9.09 (s, 1H), 8.78 (d, J=2.6, 1H), 8.20-8.11 (m, 1H), 7.73-7.65 (m, 2H), 7.46-7.37 (m, 1H), 7.34-7.29 (m, 2H), 7.26-7.19 (m, 2H), 6.87-6.79 (m, 1H), 6.59 (s, 1H), 2.97 (d, J=6.6, 2H), 2.31-2.13 (m, 1H), 1.05 (d, J=6.7, 6H).

reactant | N-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)isobutylsulfonamide | CC1(OB(OC1(C)C)C1=C(C=CC=C1)NS(=O)(=O)CC(C)C)C | C16H26BNO4S
reactant | 2-(4-bromo-2-fluorophenyl)-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC(=C(C=C1)C=1N=C2C(=NC1)NC=C2)F | C12H7BrFN3
product | N-[3′-Fluoro-4′-(5H-pyrrolo[2,3-b]pyrazin-2-yl)biphenyl-2-yl]-2-methylpropane-1-sulfonamide | FC=1C=C(C=CC1C=1N=C2C(=NC1)NC=C2)C2=C(C=CC=C2)NS(=O)(=O)CC(C)C | C22H21FN4O2S
